Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue, shortness of breath
 
Major Surgical or Invasive Procedure:
___ - Coronary artery bypass grafting x 2 (LIMA->LAD, 
SVG->OM) 

 
History of Present Illness:
Mr. ___ is a very pleasant ___ year old man who is 
well-known to our service. He has a history of coronary artery 
disease status post prior ST elevation myocardial infarction and 
stent. In ___, after running up a steep incline, he noted chest 
tightness and dyspnea on exertion. He reported his symptoms to 
Dr. ___ was referred for a stress echocardiogram which
was reportedly abnormal. A cardiac catheterization on ___ 
revealed multivessel coronary artery disease. He was referred to 
Dr. ___ surgical consultation. His surgery is scheduled 
for ___ however he returns today for further discussion 
regarding surgery.

Since his last visit, he denied further episodes of chest 
pressure. He noted back and shoulder discomfort which occurred 
___ minutes after exercise and resolved with rest. He also 
noted mild dyspnea on exertion and occasional palpitations. He 
denied syncope, dizziness, lightheadedness, shortness of breath, 
orthopnea, paroxysmal nocturnal dyspnea, or lower extremity
edema. 

 
Past Medical History:
Arthritis
Coronary Artery Disease s/p PTCA ___levation Myocardial Infarction, ___

 
Social History:
___
Family History:
Father had CABG at ___. 
Sister with ___ s/p ablation.

 
Physical Exam:
Vital Signs sheet entries for ___: 
BP: 138/83 (left arm ). Heart Rate: 66. O2 Saturation%: 99 (RA). 
Pain Score: 0.
Height: 70"   Weight: 163 lbs 

General: Pleasant man, WDWN, mildly anxious, NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRLA, EOMI
Neck: Supple, full ROM 
Chest: Lungs clear bilaterally 
Heart: Regular rate and rhythm, II-III/VI SEM heard best at LUSB 

Abdomen: Normal BS, soft, non-tender, non-distended 
Extremities: Warm, well-perfused, no edema
Varicosities: None 
Neuro: Grossly intact 
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit: transmitted murmur bilaterally 

 
Pertinent Results:
Radiology Report CHEST (PA & LAT) Study Date of ___ 2:56 
___ 
 
___ FA8 ___ 2:56 ___ 
CHEST (PA & LAT)   Clip # ___   
Reason: predischarge eval  
 
Final Report 
INDICATION:  ___ year old man s/p CABG  // predischarge eval 
  
TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  ___ 
  
FINDINGS:  
  
Stable mediastinal post CABG changes.  Normal cardiomediastinal 
shadow.  Mild unfolding of the aorta.  No airspace 
consolidation.  Small left apical pneumothorax measuring 8 mm in 
diameter.  Small bilateral effusions.  
Background of pulmonary hyperinflation.  The pulmonary arteries 
are not 
enlarged.  Spondylotic changes of the thoracic spine. 
  
IMPRESSION:  
  
Small left apical pneumothorax.  Small bilateral pleural 
effusions.  Stable mediastinal post CABG changes. 
  
  
Echocardiographic Measurements  TEE ___ 

Results  

Measurements  

Normal Range  

Left Atrium - Long Axis Dimension:   3.1 cm   <= 4.0 cm   
Left Ventricle - Septal Wall Thickness:   0.9 cm   0.6 - 1.1 cm  
 
Left Ventricle - Inferolateral Thickness:   *1.2 cm   0.6 - 1.1 
cm   
Left Ventricle - Diastolic Dimension:   4.3 cm   <= 5.6 cm   
Left Ventricle - Systolic Dimension:   2.9 cm       
Left Ventricle - Fractional Shortening:   0.33   >= 0.29   
Left Ventricle - Ejection Fraction:   55%   >= 55%   
Left Ventricle - Lateral Peak E':   *0.04 m/s   > 0.08 m/s   
Left Ventricle - Septal Peak E':   *0.04 m/s   > 0.08 m/s   
Left Ventricle - Ratio E/E':   13   < 13   
Aorta - Sinus Level:   *3.8 cm   <= 3.6 cm   
Aorta - Ascending:   3.4 cm   <= 3.4 cm   
Aorta - Arch:   2.9 cm   <= 3.0 cm   
Aortic Valve - Peak Velocity:   1.0 m/sec   <= 2.0 m/sec   
Aortic Valve - LVOT diam:   2.0 cm       
Mitral Valve - E Wave:   0.5 m/sec       
Mitral Valve - A Wave:   0.5 m/sec       
Mitral Valve - E/A ratio:   1.00       
Mitral Valve - E Wave deceleration time:   198 ms   140-250 ms   

TR Gradient (+ RA = PASP):   17 mm Hg   <= 25 mm Hg   
  
Findings   
This study was compared to the report of the prior study (images 
not available) of ___.   
LEFT ATRIUM: Normal LA size. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: RA not well visualized. 

LEFT VENTRICLE: Mild symmetric LVH with normal cavity size. Mild 
regional LV systolic dysfunction. No resting LVOT gradient. 

RIGHT VENTRICLE: RV not well seen. RV function depressed. 
Paradoxic septal motion consistent with prior cardiac surgery. 

AORTA: Mildy dilated aortic root. Normal ascending aorta 
diameter. Normal aortic arch diameter. 

AORTIC VALVE: ?# aortic valve leaflets. No AS. No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. No MVP. 
Trivial MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. TR present - cannot be quantified. Normal PA systolic 
pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: Suboptimal image quality as the patient was 
difficult to position. Emergency study.   

Conclusions   
 The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with severe 
hypokinesis of the mid to distal anterior septum and mild 
hypokineis of the apex. The remaining segments contract normally 
(LVEF = 55 %). The right ventircle is not well seen but global 
systolic function is depressed. The aortic root is mildly 
dilated at the sinus level. The number of aortic valve leaflets 
cannot be determined. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. Tricuspid regurgitation is present 
but cannot be quantified. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

 IMPRESSION: Mild regional left ventricular systolic dysfunction 
c/w CAD (mid LAD). Depressed global right ventricular systolic 
function.

 Compared with the prior study (images reviewed) of ___ 
the regional left ventricular systolic dysfunction is similar, 
but EF overall may be better.   
 

___ 03:05PM BLOOD WBC-7.5 RBC-3.37*# Hgb-10.0*# Hct-30.4*# 
MCV-90 MCH-29.7 MCHC-32.9 RDW-12.9 RDWSD-42.3 Plt ___
___ 07:11AM BLOOD WBC-4.5 RBC-2.59* Hgb-7.6* Hct-23.1* 
MCV-89 MCH-29.3 MCHC-32.9 RDW-13.2 RDWSD-43.1 Plt ___
___ 03:05PM BLOOD ___ PTT-31.5 ___
___ 07:11AM BLOOD Plt ___
___ 04:15PM BLOOD UreaN-14 Creat-0.5 Cl-108 HCO3-23 
AnGap-13
___ 03:25PM BLOOD Na-137 K-3.9
___ 03:28AM BLOOD Phos-3.3 Mg-2.0
___ 03:25PM BLOOD Mg-2.1
 
Brief Hospital Course:
He was admitted on ___ and was taken to the operating 
room. He underwent coronary artery bypass grafting x 2. Please 
see operative note for full details. He tolerated the procedure 
well and was transferred to the CVICU in stable condition for 
recovery and invasive monitoring. 
  
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. He was weaned from inotropic and vasopressor 
support. Beta blocker was initiated and he was diuresed toward 
his preoperative weight. He remained hemodynamically stable and 
was transferred to the telemetry floor for further recovery.  He 
was evaluated by the physical therapy service for assistance 
with strength and mobility. He has a slight Hemoglobin drop to 
23 without hemodynamic changes repeat labs POD3 Hct was 25.   By 
the time of discharge on POD 4 he was ambulating freely, the 
wound was healing, and pain was controlled with oral analgesics. 
He was discharged to home in good condition with appropriate 
follow up instructions.
 
Medications on Admission:
Lipitor 80 mg Daily
Plavix 75 mg Daily
Losartan 50 mg Daily
Nitroglycerin 0.4 mg sublingual PRN
Aspirin 325 mg Daily

 
Discharge Medications:
1.  Acetaminophen 650 mg PO/PR Q4H:PRN pain or temperature >38.0 
 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
4.  Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*5 Tablet 
Refills:*0 
5.  Ibuprofen 400 mg PO Q8H Duration: 1 Month 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every 8 hours Disp 
#*90 Tablet Refills:*0 
6.  Metoprolol Tartrate 6.25 mg PO BID 
RX *metoprolol tartrate 25 mg 6.25 mg by mouth twice a day Disp 
#*30 Tablet Refills:*0 
7.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 5 hours Disp 
#*65 Tablet Refills:*0 
8.  Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*5 Tablet Refills:*0 
9.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
10.  Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease

Arthritis
Hyperlipidemia 
ST Elevation Myocardial Infarction, ___

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
edema: trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___